US08957089B2
N-[2-({1-[1-(4-Fluorophenyl)cyclobutyl]-2-(2,2,2-trifluoroethyl)-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide hydrochloride
N-[2-({1-[1-(4-Fluorophenyl)cyclobutyl]-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide (49 mg, 0.09 mmol) was dissolved in dry tetrahydrofuran (0.6 mL) under an atmosphere of nitrogen. The solution was cooled to 0° C. and a 1M solution of borane in tetrahydrofuran (0.181 mL, 0.181 mmol) was added dropwise. The reaction mixture was warmed to room temperature and then heated under reflux for 2 h. The solvent was evaporated in vacuo, the residue was dissolved in dichloromethane (20 mL) and washed with water (10 mL). The organic layer was dried (MgSO4) and concentrated in vacuo. The product was dissolved in dichloromethane (2 mL) and treated with 5N isopropanolic hydrochloric acid (27 μL, 0.135 mmol). The solvents were evaporated and the product was dried in vacuo. Yield: 45 mg (0.08 mmol, 88%).

reactant | N-[2-({1-[1-(4-Fluorophenyl)cyclobutyl]-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide | 0.09 mmol, 49 mg | FC1=CC=C(C=C1)C1(CCC1)C1N(CCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC)C(C(F)(F)F)=O | C26H30F4N2O4S
reactant | borane | B | BH3
reactant | hydrochloric acid | 0.135 mmol, 5N, 27 μL | Cl | ClH
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.181 mmol, 0.181 mL | O1CCCC1 | C4H8O
product | N-[2-({1-[1-(4-Fluorophenyl)cyclobutyl]-2-(2,2,2-trifluoroethyl)-1,2,3,4-tetrahydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide hydrochloride | Cl.FC1=CC=C(C=C1)C1(CCC1)C1N(CCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC)CC(F)(F)F | InChI=1S/C26H32F4N2O3S.ClH/c1-2-16-36(33,34)31-13-15-35-22-9-4-19-10-14-32(18-26(28,29)30)24(23(19)17-22)25(11-3-12-25)20-5-7-21(27)8-6-20;/h4-9,17,24,31H,2-3,10-16,18H2,1H3;1H
